US07049310B2
b) 1-Ethyl-5-fluoro-1H-indole-3-carboxaldehyde
According to the procedure of Preparation 9 (a), except substituting 5-fluoro-1H-indole-3-carboxaldehyde (0.41 g, 2.5 mmole) for the ethylindole-2-carboxylate, the title compound (0.20 g, 57%) was prepared as a viscous oil: MS (ES) m/e 191 (M+H)+.

reactant | 5-fluoro-1H-indole-3-carboxaldehyde | 2.5 mmole, 0.41 g | FC=1C=C2C(=CNC2=CC1)C=O | C9H6FNO
reactant | ethylindole-2-carboxylate | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
product | 1-Ethyl-5-fluoro-1H-indole-3-carboxaldehyde | 0.20 g, 57% | C(C)N1C=C(C2=CC(=CC=C12)F)C=O | C11H10FNO
